US07163937B2
A sample of benzyl (S)-1-((1S,2R,4R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate A (faster ismer, 0.41 g) and Pd/C (0.08 g) were taken in MeOH (20 mL) and stirred at rt under 50 psi hydrogen pressure. After stirring overnight, the reaction mixture was filtered through Celite using EtOAc. Upon concentration and drying in vacuo, (S)-3-amino-1-((1S,2R,4R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexyl)pyrrolidin-2-one was obtained as a clear viscous oil.

reactant | benzyl (S)-1-((1S,2R,4R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | C(C)(C)O[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)CS(=O)(=O)C(C)C | C25H38N2O6S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.08 g | [Pd] | Pd
product | (S)-3-amino-1-((1S,2R,4R)-4-isopropoxy-2-(isopropylsulfonylmethyl)cyclohexyl)pyrrolidin-2-one | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)OC(C)C)CS(=O)(=O)C(C)C)=O | C17H32N2O4S
